US07199147B2
Under a nitrogen atmosphere, a solution of sodium iodide (247 mg, 1.65 mmol) and 15-crown-5 (327 μl, 1.65 mmol) in dichloromethane (2.7 ml) was slowly dropped into a solution of trans-2-[(3-methoxycyclohexyl)methyl]-1H-isoindole-1,3(2H)-dione (100 mg, 0.366 mmol) in dichloromethane (2 ml) at −40° C. After 10 minutes, a 1M-tribromoborane-dichloromethane solution (1.10 ml, 1.10 mmol) was added dropwise thereto. After 1 hour, the mixture thus obtained was slowly heated to be adjusted to 0° C. 2.5 hours after the start of the heating. After standing at room temperature for 14 hours, the reaction solution was poured onto ice and extracted with chloroform. The extract solution was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain trans-2-[(3-hydroxycyclohexyl)methyl]-1H-isoindole-1,3(2H)-dione (63.2 mg, 67%).

reactant | sodium iodide | 1.65 mmol, 247 mg | [I-].[Na+]
reactant | 15-crown-5 | 1.65 mmol, 327 μl | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | trans-2-[(3-methoxycyclohexyl)methyl]-1H-isoindole-1,3(2H)-dione | 0.366 mmol, 100 mg | CO[C@@H]1C[C@H](CCC1)CN1C(C2=CC=CC=C2C1=O)=O | C16H19NO3
reactant | tribromoborane dichloromethane | 1.10 mmol, 1.10 ml | BrB(Br)Br.ClCCl
solvent | dichloromethane | 2.7 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | trans-2-[(3-hydroxycyclohexyl)methyl]-1H-isoindole-1,3(2H)-dione | 63.2 mg, 67% | O[C@@H]1C[C@H](CCC1)CN1C(C2=CC=CC=C2C1=O)=O | C15H17NO3
